US08865712B2
d) 3-Amino-5-cyano-pyridine-2-carboxylic acid [6-((3R,6R)-5-amino-3,6-dimethyl-6-trifluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-pyridin-2-yl]-amide
To a solution of ((2R,5R)-5-{6-[(3-amino-5-cyano-pyridine-2-carbonyl)-amino]-pyridin-2-yl}-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester (71 mg, 0.133 mmol) in DCM (3 ml) was added TFA (1 ml). After stirring for 1.5 h the mixture was poured onto 10% aq. Na2CO3 and extracted three times with DCM. The combined organic layers were dried with K2CO3, filtered and evaporated. The title compound (46 mg) was obtained after chromatography on silica gel (hexanes/15-25% (EtOAc/EtOH 9:1)) as a yellow solid. HPLC: RtH3=3.027 min; ESIMS: 434 [(M+H)+]; 1H-NMR (600 MHz, DMSO-d6): 10.23 (s, 1H), 8.25 (s, 1H), 8.06 (d, 1H), 7.85 (t, 1H), 7.69 (s, 1H), 7.36-7.27 (m, broad, 3H), 6.12-6.00, (s, broad, 2H), 3.94 (d, 1H), 3.76 (d, 1H), 1.42 (s, 3H), 1.34 (s, 3H).

reactant | ((2R,5R)-5-{6-[(3-amino-5-cyano-pyridine-2-carbonyl)-amino]-pyridin-2-yl}-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester | 0.133 mmol, 71 mg | C(C)(C)(C)OC(NC=1[C@@](OC[C@@](N1)(C)C1=NC(=CC=C1)NC(=O)C1=NC=C(C=C1N)C#N)(C(F)(F)F)C)=O | C24H26F3N7O4
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 3-Amino-5-cyano-pyridine-2-carboxylic acid [6-((3R,6R)-5-amino-3,6-dimethyl-6-trifluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-pyridin-2-yl]-amide | 46 mg | NC1=N[C@](CO[C@]1(C(F)(F)F)C)(C)C1=CC=CC(=N1)NC(=O)C1=NC=C(C=C1N)C#N | C19H18F3N7O2
